US08252781B2
Preparation of 1-[(2-chlorophenyl)sulfonyl]-4,4-dimethyl-2-(adamantan-2-yl)-1,2-diazetidin-3-one
2-(Adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one and 2-chlorobenzene sulfonyl chloride were used for a similar reaction and treatment as Example 169, and the title compound was obtained as a white crystalline powder.

reactant | 2-(Adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one | C12C(C3CC(CC(C1)C3)C2)N2NC(C2=O)(C)C | C14H22N2O
reactant | 2-chlorobenzene sulfonyl chloride | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 1-[(2-chlorophenyl)sulfonyl]-4,4-dimethyl-2-(adamantan-2-yl)-1,2-diazetidin-3-one | ClC1=C(C=CC=C1)S(=O)(=O)N1N(C(C1(C)C)=O)C1C2CC3CC(CC1C3)C2 | C20H25ClN2O3S
